US07468375B2
Step 2: Methyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate:
Method 1. A mixture of methyl 4-methyl-5-nitropyridine-2-carboxylate (3.5 g, 17.8 mmol), dimethylformamide dimethylacetal (DMF-DMA) (3.6 ml, 1.5 eq) in acetonitrile (35 mL) was heated in a microwave at 140° C. for 20 min. The solvent was removed. The residue (5.1 g) was carried onto the next step without further purification. Method 2. A mixture of methyl 4-methyl-5-nitropyridine-2-carboxylate (39.5 g, 0.19 mol) and DMF-DMA (30.6 g, 0.26 mol, 1.35 eq) in DMF (470 mL) was heated to 90° C. for 30 min. The solvent was removed in vacuo. The residue (78 g) was used without further purification in the next step.

reactant | methyl 4-methyl-5-nitropyridine-2-carboxylate | 17.8 mmol, 3.5 g | CC1=CC(=NC=C1[N+](=O)[O-])C(=O)OC | C8H8N2O4
reactant | dimethylformamide dimethylacetal | 3.6 ml, 1.5 eq | COC(N(C)C)OC | C5H13NO2
reactant | methyl 4-methyl-5-nitropyridine-2-carboxylate | 0.19 mol, 39.5 g | CC1=CC(=NC=C1[N+](=O)[O-])C(=O)OC | C8H8N2O4
reactant | DMF-DMA | 0.26 mol, 30.6 g, 1.35 eq | COC(N(C)C)OC | C5H13NO2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | DMF | 470 mL | CN(C)C=O | C3H7NO
product | Methyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])C(=O)OC)C | C11H13N3O4
